US05998433
c) Synthesis of 5-benzyl-2-dimethylaminomethyl-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one
To a solution of 0.181 g (0.796 mmol) of 5-benzyl-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one in 10 ml of acetic acid, 0.36 g (4.0 mmol) of 50% aqueous dimethylamine and 0.32 g (4.0 mmol) of 37% aqueous formaldehyde were added, followed by refluxing for 6 hours. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 5-benzyl-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one | 0.796 mmol, 0.181 g | C(C1=CC=CC=C1)N1C(C2=C(CC1)OC=C2)=O | C14H13NO2
reactant | dimethylamine | 4.0 mmol, 0.36 g | CNC | C2H7N
reactant | formaldehyde | 4.0 mmol, 0.32 g | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-benzyl-2-dimethylaminomethyl-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one | C(C1=CC=CC=C1)N1C(C2=C(CC1)OC(=C2)CN(C)C)=O | C17H20N2O2
